US08258144B2
2-(1H-indazol-6-ylamino)-4-(cyclobutylamino)-6,7-dihydropyrrolo[2,3-d]pyrimidin-5-one
A mixture of 2-chloro-N-cyclobutyl-5-fluoro-7H-pyrrolo[2,3-d]pyrimidin-4-amine (54 mg, 0.22 mmol), 6-aminoindazole (90 mg, 0.68 mmol) and TMSCl (0.090 mL, 0.71 mmol) in nBuOH (3 mL) was stirred at 116° C. for 18 h. It was then concentrated in vacuo. The residue was purified by HPLC to give a sample, which was further purified by preparative TLC using CH2Cl2/MeOH (95/5) as developing solvents to give the titled compound (2 mg). MS 336.1 (M+H)

reactant | 2-chloro-N-cyclobutyl-5-fluoro-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.22 mmol, 54 mg | ClC=1N=C(C2=C(N1)NC=C2F)NC2CCC2 | C10H10ClFN4
reactant | 6-aminoindazole | 0.68 mmol, 90 mg | NC1=CC=C2C=NNC2=C1 | C7H7N3
reactant | TMSCl | 0.71 mmol, 0.090 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | nBuOH | 3 mL | C(CCC)O | C4H10O
product | 2-(1H-indazol-6-ylamino)-4-(cyclobutylamino)-6,7-dihydropyrrolo[2,3-d]pyrimidin-5-one | 2 mg | N1N=CC2=CC=C(C=C12)NC=1N=C(C2=C(N1)NCC2=O)NC2CCC2 | C17H17N7O
